US08202873B2
1,5-Dimethyl-3-trifluoromethyl-1H-pyrazole-4-carbaldehyde
Dissolve 4-bromo-1,5-dimethyl-3-trifluoromethyl-1H-pyrazole (0.30 g, 1.23 mmol) in tetrahydrofuran (14.7 mL). Cool to −78° C. and add 1.7 M t-butyllithium in pentane (2.9 mL) dropwise. Stir for 3 min. at −78° C. and then add dimethylformamide (669 μL, 8.64 mmol). Stir for thirty min. at −78° C., then warm to 0° C. over 2 hr. Add 2 N hydrochloric acid (12.3 mL) and stir at room temperature for one hr. Separate layers and extract aqueous layer 2 times with DCM. Dry combined organic layers (magnesium sulfate), filter, concentrate and purify (silica gel chromatography eluting with 0:100 to 15:85 ethyl acetate:hexanes), to give the title preparation (79 mg, 33%). GC-MS: m/z=192 [M+].

reactant | 4-bromo-1,5-dimethyl-3-trifluoromethyl-1H-pyrazole | 1.23 mmol, 0.30 g | BrC=1C(=NN(C1C)C)C(F)(F)F | C6H6BrF3N2
reactant | t-butyllithium | 1.7 M | C(C)(C)(C)[Li]
reactant | dimethylformamide | 8.64 mmol, 669 μL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 2 N, 12.3 mL | Cl | ClH
solvent | tetrahydrofuran | 14.7 mL | O1CCCC1 | C4H8O
solvent | pentane | 2.9 mL | CCCCC | C5H12
product | 1,5-Dimethyl-3-trifluoromethyl-1H-pyrazole-4-carbaldehyde | CN1N=C(C(=C1C)C=O)C(F)(F)F | C7H7F3N2O
